US09315507B2
Step 5: 2-(4-(Adamantan-1-yl)-2-chlorophenoxy)-1-(4-methylpiperazin-1-yl)ethanone (I-42)
The title compound was prepared from 2-(4-(adamantan-1-yl)-2-chlorophenoxy)acetic acid (0.2 g, 0.62 mmol), prepared from the step 4, and 1-methylpiperazine (0.062 g, 0.62 mmol) according to the example 1, which was given 2-(4-(adamantan-1-yl)-2-chlorophenoxy)-1-(4-methylpiperazin-1-yl)ethanone as a white solid (0.231 g, 92.0% yield).

reactant | 2-(4-(adamantan-1-yl)-2-chlorophenoxy)acetic acid | 0.62 mmol, 0.2 g | C12(CC3CC(CC(C1)C3)C2)C2=CC(=C(OCC(=O)O)C=C2)Cl | C18H21ClO3
reactant | 1-methylpiperazine | 0.62 mmol, 0.062 g | CN1CCNCC1 | C5H12N2
product | 2-(4-(adamantan-1-yl)-2-chlorophenoxy)-1-(4-methylpiperazin-1-yl)ethanone | 0.231 g, 92.0% yield | C12(CC3CC(CC(C1)C3)C2)C2=CC(=C(OCC(=O)N3CCN(CC3)C)C=C2)Cl | C23H31ClN2O2
